US08293735B2
8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of 5-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester using 2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester hydrochloride in place of hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester. The title compound was obtained as a tan solid (104 mg, 71%).

reactant | 5-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CN(CC2C1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C22H30ClN5O3S
reactant | 2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(=O)N1CC2(CC1)CCNCC2
product | 8-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,8-diaza-spiro[4.5]decane-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2(CC1)CCN(CC2)CC2=CC=1N=C(N=C(C1S2)N2CCOCC2)Cl | C24H34ClN5O3S
